US08912208B2
PdCl2dppf (120 mg, 0.140 mmol) is added to a degassed mixture of {4-[4(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (1.00 g, 2.79 mmol), 5-bromo-2-chloro-pyrimidine (540 mg, 2.79 mmol), 2 M Na2CO3 (2.8 mL), and DME (7.5 mL). The mixture is sealed in a glass tube and heated to 120° C. for 20 min by microwave irradiation. The reaction is diluted with EtOAc (150 mL), and the resulting suspension filtered. The filtrate is extracted with 1 N HCl (25 mL) and the organic layer dried over Na2SO4. Concentration followed by silica gel chromatography (20% EtOAc/Hexanes) affords {4-[4-(2-chloro-pyrimidin-5-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester as a white solid: 1H NMR (400 MHz, CHLOROFORM-d) ppm 1.14-1.27 (m, 2 H) 1.49-1.61 (m, 2 H) 1.86-1.98 (m, 5 H) 2.28 (d, J=6.82 Hz, 2H) 2.56 (tt, J=12.22, 3.19 Hz, 1 H) 3.70 (s, 3 H) 7.37 (d, J=8.08 Hz, 2 H) 7.49 (d, J=8.34 Hz, 2 H) 8.81 (s, 2 H); (M+H)+ 345.1.

reactant | {4-[4(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 2.79 mmol, 1.00 g | COC(CC1CCC(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C21H31BO4
reactant | 5-bromo-2-chloro-pyrimidine | 2.79 mmol, 540 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | Na2CO3 | 2 M, 2.8 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DME | 7.5 mL | COCCOC | C4H10O2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | {4-[4-(2-chloro-pyrimidin-5-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C=1C=NC(=NC1)Cl)=O | C19H21ClN2O2
